US05215999
0.3 G of N-(2-propenyl)-4-chloro-8-methoxyquinoline-3-carboxamide and 0.26 g of o-ethylaniline were dissolved in 20 ml of dioxane, and the reaction mixture was refluxed for five hours. After dioxane was distilled off, the residue was recrystallized from ethanol and n-hexane to give 0.2 g of N-(2-propenyl)-4-[(2-ethylphenyl)amino]-8-methoxyquinoline-3-carboxamide hydrochloride in the form of yellow powder. mp. 222° to 223° C. (decomposed)

reactant | N-(2-propenyl)-4-chloro-8-methoxyquinoline-3-carboxamide | C(C=C)NC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H13ClN2O2
reactant | o-ethylaniline | 0.26 g | C(C)C1=C(N)C=CC=C1 | C8H11N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-(2-propenyl)-4-[(2-ethylphenyl)amino]-8-methoxyquinoline-3-carboxamide hydrochloride | 0.2 g | Cl.C(C=C)NC(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)CC)OC | InChI=1S/C22H23N3O2.ClH/c1-4-13-23-22(26)17-14-24-21-16(10-8-12-19(21)27-3)20(17)25-18-11-7-6-9-15(18)5-2;/h4,6-12,14H,1,5,13H2,2-3H3,(H,23,26)(H,24,25);1H
